US07112582B2
Step 3: Preparation of 2,3-dihydropyrazolo[5,1-b][1,3]oxazole-6-carbaldehyde:
To the stirred solution of 2,3-dihydropyrazolo[5,1-b][1,3]oxazole-6-methanol (2.60 g, 18.5 mmol) in 60 ml of CH3Cl was added 12.9 g of MnO2. Th suspension was refluxed for 1.5 hour under a nitrogen atmosphere. The reaction mixture was filtered through a pad of Celite. The filtrate was concentrated to give yellow oil. The product was purified by chromatography. 2.15 g of the product was obtained (84.3%).

reactant | 2,3-dihydropyrazolo[5,1-b][1,3]oxazole-6-methanol | 18.5 mmol, 2.60 g | O1C=2N(CC1)N=C(C2)CO | C6H8N2O2
solvent | CH3Cl | 60 ml | CCl | CH3Cl
catalyst | MnO2 | 12.9 g | O=[Mn]=O
product | 2,3-dihydropyrazolo[5,1-b][1,3]oxazole-6-carbaldehyde | 2.15 g | O1C=2N(CC1)N=C(C2)C=O | C6H6N2O2
